US07825256B2
P2S5 (60 mg, 0.27 mmol) was added to a solution of 3-carbamoyl-2-(2-imidazol-1-yl-6-methyl-pyrimidin-4-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester (10 mg, 0.30 mmol) in dimethoxyethane (10 mL) at rt under an atmosphere of N2. The reaction mixture was heated to 100° C. for 2 h then cooled to rt. Water (20 mL) was added and the solution was extracted with DCM (3×30 mL). The combined organics were dried over Na2SO4, filtered and concentrated under vacuum to afford 100 mg (86%) of 2-(2-imidazol-1-yl-6-methyl-pyrimidin-4-yl)-3-thiocarbamoyl-pyrrolidine-1-carboxylic acid tert-butyl ester as a yellow oil.

reactant | P2S5 | 0.27 mmol, 60 mg | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | 3-carbamoyl-2-(2-imidazol-1-yl-6-methyl-pyrimidin-4-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.30 mmol, 10 mg | C(C)(C)(C)OC(=O)N1C(C(CC1)C(N)=O)C1=NC(=NC(=C1)C)N1C=NC=C1 | C18H24N6O3
reactant | Water | 20 mL | O | H2O
solvent | dimethoxyethane | 10 mL | C(OC)COC | C4H10O2
product | 2-(2-imidazol-1-yl-6-methyl-pyrimidin-4-yl)-3-thiocarbamoyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 100 mg, 86% | C(C)(C)(C)OC(=O)N1C(C(CC1)C(N)=S)C1=NC(=NC(=C1)C)N1C=NC=C1 | C18H24N6O2S
